US06060207
24 g of methacrylic acid, 31 g of menthol and 15 g of p-toluenesulfonic acid dissolved in 500 mL of toluene were heated under reflux at an oil temperature of 150° C. for 19 h. Subsequently, the reaction of the mixed solution was quenched by the addition of salt saturated sodium hydrocarbonate solution. The mixture was extracted with ether, the organic layers were combined and washed with salt saturated sodium bicarbonate solution and then with an aqueous solution of sodium hydroxide, salt saturated ammonium chloride solution, and then dried over salt saturated brine and sodium sulfate anhydous. Finally, the resultant oily product was evaporated under reduced pressure to obtain menthyl methacrylate.

reactant | methacrylic acid | 24 g | C(C(=C)C)(=O)O | C4H6O2
reactant | menthol | 31 g | C1(CC(C(CC1)C(C)C)O)C | C10H20O
reactant | p-toluenesulfonic acid | 15 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | menthyl methacrylate | C(C(=C)C)(=O)OC1CC(CCC1C(C)C)C | C14H24O2
